US04680296
1-[2-[4-Diphenylmethyl-1-piperidinyl]ethyl]-1,3-dihydro-2(2H)-benzimidazolone
A solution of 4 g of 1-[2-[4-diphenylmethylene-1-piperidinyl]ethyl]-1,3-dihydro-2(2H)-benzimidazolone in 150 cm3 of methanol is hydrogenated with the aid of a Parr apparatus, at ambient temperature, at a hydrogen pressure of 50 psi, in the presence of 5% palladium on charcoal. When the absorption of hydrogen has ended, the catalyst is filtered off and the filtrate is evaporated down. The product obtained is recrystallized from ethyl acetate. M.p.=195°-196° C.

reactant | 1-[2-[4-diphenylmethylene-1-piperidinyl]ethyl]-1,3-dihydro-2(2H)-benzimidazolone | 4 g | C1(=CC=CC=C1)C(=C1CCN(CC1)CCN1C(NC2=C1C=CC=C2)=O)C2=CC=CC=C2 | C27H27N3O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 cm3 | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 1-[2-[4-Diphenylmethyl-1-piperidinyl]ethyl]-1,3-dihydro-2(2H)-benzimidazolone | C1(=CC=CC=C1)C(C1CCN(CC1)CCN1C(NC2=C1C=CC=C2)=O)C2=CC=CC=C2 | C27H29N3O
